US04409229
A cold stirred solution of 1,3-dihydro-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine], Example 4, and triethylamine in 50 ml of chloroform is treated dropwise with a solution of acetyl chloride in chloroform to provide 1'-acetyl-1,3-dihydro-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine].

reactant | 1,3-dihydro-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine] | C1(=CC=CC=C1)C1C2=C(C=CC=C2)C2(CCNCC2)S1 | C18H19NS
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1'-acetyl-1,3-dihydro-3-phenylspiro[benzo(c)thiophene-1,4'-piperidine] | C(C)(=O)N1CCC2(CC1)SC(C1=C2C=CC=C1)C1=CC=CC=C1 | C20H21NOS
